US06509328B1
(4′-Fluoro-3-{3-[3-(2-methylsulfanyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G39) and 3-[3-(2-methylsulfanyl-imidazol-1-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example H13) according to the general procedure K. Obtained as a light yellow oil (181 mg).

reactant | (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)N)=O | C17H19FN2O2
reactant | 3-[3-(2-methylsulfanyl-imidazol-1-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)SC)=O | C17H20N2O3S
product | (4′-Fluoro-3-{3-[3-(2-methylsulfanyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester | 181 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)SC)=O)=O | C30H29FN4O4S
